### PR TITLE
[Merged by Bors] - feat: bijection between Dyck words and rooted binary trees

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/DyckWord.lean [hunk 1]
```diff
@@ -0,0 +1,424 @@
...
+
+* `treeEquiv`: equivalence between Dyck words and rooted binary trees.
+* `finiteTreeEquiv`: equivalence between Dyck words of length `2 * n` and rooted binary trees
+  with `n` internal nodes.
+* `treesOfNodesEq_card_eq_catalan`: there are `catalan n` Dyck words of length `2 * n`.
+-/
+
+
+/-- A `Step` is either `U` or `D`, corresponding to `(` and `)` respectively. -/
+inductive Step
```
Comment (alexjbest) [inline Mathlib/Combinatorics/DyckWord.lean:28]: This should be in a namespace, currently this creates a type in the global namespace called `Step` which is way too generic a a name.

File: Mathlib/Combinatorics/DyckWord.lean [hunk 2]
```diff
@@ -0,0 +1,424 @@
...
+/-- A `DyckPath` is balanced if its running `U`-count always exceeds its running `D`-count
+and both counts are equal at the end. -/
+def IsBalanced (p : DyckPath) : Prop :=
+  p.count U = p.count D ∧ ∀ i, (p.take i).count D ≤ (p.take i).count U
+
+section Suf
+
+variable (h : p.IsBalanced) (hl : p ≠ [])
+
+lemma step_cases (s : Step) : s = U ∨ s = D := by cases' s <;> tauto
```
Comment (alexjbest) [inline Mathlib/Combinatorics/DyckWord.lean:58]: Can this lemma be autogenerated with `@[mk_iff]` on `Step`?

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/DyckWord.lean:58]: `mk_iff only applies to prop-valued declarations`

File: Mathlib/Combinatorics/DyckWord.lean [hunk 3]
```diff
@@ -0,0 +1,424 @@
...
+
+
+/-- A `Step` is either `U` or `D`, corresponding to `(` and `)` respectively. -/
+inductive Step
+  | U : Step
+  | D : Step
+  deriving Inhabited, DecidableEq
+
+/-- A `DyckPath` is a `List` of `Step`s. -/
+def DyckPath := List Step deriving Append
```
[the remark this answers is not in the document]
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/DyckWord.lean]: Yes (and same for the one above).

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 4]
```diff
@@ -0,0 +1,428 @@
...
+lemma isBalanced_iff_isBalanced' : p.IsBalanced ↔ p.IsBalanced' := by
+  constructor <;> (intro ⟨h1, h2⟩; refine' ⟨h1, _⟩)
+  · intro i _; exact h2 i
+  · intro i
+    cases' lt_or_ge i p.length with hi hi
+    · exact h2 i hi
+    · rw [take_all_of_le hi]; exact h1.symm.le
+
+instance : DecidablePred IsBalanced := fun _ ↦
+  decidable_of_iff (_ ∧ _) (isBalanced_iff_isBalanced' _).symm
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:85]:
```suggestion
instance : DecidablePred IsBalanced := fun _ ↦
  decidable_of_iff
    (p.count U = p.count D ∧ ∀ i < p.length, (p.take i).count D ≤ (p.take i).count U) $ by
    constructor <;> (intro ⟨h1, h2⟩; refine' ⟨h1, _⟩)
    · intro i
      cases' lt_or_ge i p.length with hi hi
      · exact h2 i hi
      · rw [take_all_of_le hi]; exact h1.symm.le
    · intro i _; exact h2 i
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 5]
```diff
@@ -0,0 +1,428 @@
...
+  · refine' ⟨by rw [bh.1] at b1; omega, fun j ↦ _⟩
+    cases' le_or_gt (p.take i).length j with hj hj
+    · rw [take_all_of_le hj]; rw [bh.1] at b1; omega
+    · replace b2 := b2 j
+      simp_rw [show j - (p.take i).length = 0 by omega, take_zero, count_nil, add_zero] at b2
+      exact b2
+
+/-- If `p.take i` satisfies the equality part of `IsBalanced`, it also satisfies the other part
+and is balanced itself. -/
+lemma IsBalanced.from_take {i : ℕ} (h : (p.take i).count U = (p.take i).count D) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:132]:
```suggestion
lemma IsBalanced.take {i : ℕ} (h : (p.take i).count U = (p.take i).count D) :
```
no?

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 6]
```diff
@@ -0,0 +1,428 @@
...
+    IsBalanced (p.take i) := ⟨h, fun j ↦ by rw [take_take]; apply bp.2⟩
+
+variable (np : p ≠ [])
+
+/-- The first element of a nonempty balanced Dyck path is `U`. -/
+lemma IsBalanced.head_U : p.head np = U := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:138]:
```suggestion
lemma IsBalanced.head_eq_U : p.head np = U := by
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 7]
```diff
@@ -0,0 +1,428 @@
...
+  cases' p with h _; · tauto
+  by_contra f; simpa [(step_cases h).resolve_left f] using bp.2 1
+
+/-- The last element of a nonempty balanced Dyck path is `D`. -/
+lemma IsBalanced.getLast_D : p.getLast np = D := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:143]:
```suggestion
lemma IsBalanced.getLast_eq_D : p.getLast np = D := by
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 8]
```diff
@@ -0,0 +1,428 @@
...
+    p.length.pred = p.length.pred.pred + 1 := by
+  cases' p with _ q; · tauto
+  cases' q
+  · replace bp := bp.length_even; norm_num [even_iff_two_dvd] at bp
+  · refine' ⟨_, _, _⟩
+    · rw [take_cons, take_zero, head_cons]
+    · rw [dropLast_cons₂, take_cons, take_zero, head_cons]
+    · rfl
+
+lemma append_tail_dropLast_append : p = [U] ++ tail (dropLast p) ++ [D] := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:159]:
```suggestion
lemma cons_tail_dropLast_concat : U :: tail (dropLast p) ++ [D] = p := by
```
?

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 9]
```diff
@@ -0,0 +1,428 @@
...
+      ← mem_treesOfNumNodesEq, Equiv.apply_symm_apply]⟩⟩
+  left_inv := fun ⟨p, ⟨bp, len⟩⟩ ↦ by simp only [Equiv.symm_apply_apply]
+  right_inv := fun ⟨tr, sz⟩ ↦ by simp only [Subtype.coe_eta, Equiv.apply_symm_apply]
+
+instance instFintypeDyckWords {n : ℕ} :
+    Fintype { p : DyckPath // p.IsBalanced ∧ p.length = 2 * n } :=
+  Fintype.ofEquiv _ (finiteTreeEquiv n).symm
+
+/-- There are `catalan n` Dyck words of length `2 * n`. -/
+theorem dyckPath_isBalanced_card_eq_catalan (n : ℕ) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:421]:
```suggestion
theorem card_dyckPath_isBalanced_eq_catalan (n : ℕ) :
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 8 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean]: For consistency with how I represent adding `D` at the end I'd prefer my original formulation with `[U] ++ ...`

Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean]: But `a :: l` is simp normal form for `[a] ++ l`, while `l ++ [a]` is simp normal form for `concat l a`, so you are putting yourself in inconsistency to the rest of the library

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 10]
```diff
@@ -0,0 +1,423 @@
...
+      ← mem_treesOfNumNodesEq, Equiv.apply_symm_apply]⟩⟩
+  left_inv := fun ⟨p, ⟨bp, len⟩⟩ ↦ by simp only [Equiv.symm_apply_apply]
+  right_inv := fun ⟨tr, sz⟩ ↦ by simp only [Subtype.coe_eta, Equiv.apply_symm_apply]
+
+instance instFintypeDyckWords {n : ℕ} :
+    Fintype { p : DyckPath // p.IsBalanced ∧ p.length = 2 * n } :=
+  Fintype.ofEquiv _ (finiteTreeEquiv n).symm
+
+/-- There are `catalan n` Dyck words of length `2 * n`. -/
+theorem card_dyckPath_isBalanced_eq_catalan (n : ℕ) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:416]: I had overlooked you already were in the `DyckPath` namespace, so this is a more concise name
```suggestion
theorem card_isBalanced_eq_catalan (n : ℕ) :
```

File: Mathlib/Data/List/Indexes.lean [hunk 11]
```diff
@@ -253,6 +253,63 @@ theorem findIdxs_eq_map_indexesValues (p : α → Prop) [DecidablePred p] (as :
     Bool.cond_decide]
 #align list.find_indexes_eq_map_indexes_values List.findIdxs_eq_map_indexesValues
 
+section FindIdx -- TODO: upstream to Std
+
+theorem findIdx_eq_length_of_not_exists {p : α → Bool} {xs : List α} (h : ∀ x ∈ xs, ¬p x) :
+    xs.findIdx p = xs.length := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Indexes.lean:259]:
```suggestion
theorem findIdx_eq_length {p : α → Bool} {xs : List α} :
    xs.findIdx p = xs.length ↔ ∀ x ∈ xs, ¬p x := by
```

File: Mathlib/Data/List/Indexes.lean [hunk 12]
```diff
@@ -253,6 +253,63 @@ theorem findIdxs_eq_map_indexesValues (p : α → Prop) [DecidablePred p] (as :
...
+    simp_rw [findIdx_cons, h x (mem_cons_self x xs), cond_false, length_cons, Nat.succ.injEq]
+    apply ih; intro y hy; exact h y <| mem_cons.mpr (Or.inr hy)
+
+theorem findIdx_le_length (p : α → Bool) {xs : List α} : xs.findIdx p ≤ xs.length := by
+  by_cases e : ∃ x ∈ xs, p x
+  · exact (findIdx_lt_length_of_exists e).le
+  · push_neg at e; exact (findIdx_eq_length_of_not_exists e).le
+
+theorem findIdx_lt_length_iff_exists {p : α → Bool} {xs : List α} :
+    (∃ x ∈ xs, p x) ↔ xs.findIdx p < xs.length := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Indexes.lean:272]:
```suggestion
theorem findIdx_lt_length {p : α → Bool} {xs : List α} :
    xs.findIdx p < xs.length ↔ ∃ x ∈ xs, p x := by
```

File: Mathlib/Data/List/Indexes.lean
Comment (YaelDillies) [inline Mathlib/Data/List/Indexes.lean:1]: Can you split out a PR for these lemmas?

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 13]
```diff
@@ -0,0 +1,423 @@
...
+
+* `DyckPath`: a list of `U` and `D` steps without any restrictions.
+* `IsBalanced`: the property defining Dyck words.
+
+## Main results
+
+* `treeEquiv`: equivalence between Dyck words and rooted binary trees.
+* `finiteTreeEquiv`: equivalence between Dyck words of length `2 * n` and rooted binary trees
+  with `n` internal nodes.
+* `dyckPath_isBalanced_card_eq_catalan`: there are `catalan n` Dyck words of length `2 * n`.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:32]: Do pay attention to fully qualify Lean declarations in docs. Else they won't turn into links.
```suggestion
* `DyckPath.treeEquiv`: equivalence between Dyck words and rooted binary trees.
* `DyckPath.finiteTreeEquiv`: equivalence between Dyck words of length `2 * n` and rooted binary trees
  with `n` internal nodes.
* `DyckPath.card_isBalanced_eq_catalan `: there are `catalan n` Dyck words of length `2 * n`.
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 14]
```diff
@@ -0,0 +1,423 @@
...
+if they are `U = (1, 1)` and `D = (1, -1)` the sequence is a lattice path from `(0, 0)` to `(0, 2n)`
+and the restriction requires the path to never go below the x-axis.
+
+This file defines Dyck words and constructs their bijection with rooted binary trees,
+one consequence being that the number of Dyck words with length `2n` is `catalan n`.
+
+## Main definitions
+
+* `DyckPath`: a list of `U` and `D` steps without any restrictions.
+* `IsBalanced`: the property defining Dyck words.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:25]:
```suggestion
* `DyckPath.IsBalanced`: the property defining Dyck words.
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 8 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean]: Done.

Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean]: (I must say I find this asymmetry a bit stupid, but I haven't tried to fix it because it would make swapping the names `append` and `concat` harder in the future)

File: Mathlib/Data/List/Indexes.lean
Comment (Parcly-Taxel) [reply Mathlib/Data/List/Indexes.lean:1]: #11808

**Comment by trivial1711** [comment]
Do you have a reference that uses the term "Dyck path" to refer to any sequence of U and D?

**Comment by Shreyas4991** [comment]
A couple of broader suggestions:
1. I would suggest that `DyckPath` be renamed to `DyckOnePath` or something similar. Dyck languages can combine multiple kinds of brackets and you get `Dyck 1` or `Dyck 2` languages etc.
2. Some notation for constructing Dyck paths might be helpful, even if they have to be quoted like `[Dyck1| UDUD]`

**Comment by trivial1711** [comment]
Please do not use the phrase "Dyck path" to refer to an unrestricted list consisting of the letters "U" and "D". The correct name for this concept is simply "list"; there is no need to use any abbreviation at all.

**Comment by trivial1711** [comment]
Here is what I believe to be the standard usage of these terms. Please tell me if you find a reference that suggests otherwise.

- A *word* on the alphabet $\{U, D\}$ is any finite sequence $w = w_1 \ldots w_\ell$, where each $w_i \in \{U, D\}$. Words are used in this PR, but they are not defined in this PR. They are called "lists" in mathlib, and they are defined in [docs#Init.Prelude.List](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#List).
- We call a word on the alphabet $\{U, D\}$ a *Dyck word* if every prefix has at least as many $U$'s as $D$'s, and the whole word has exactly as many $U$'s as $D$'s. Dyck words are defined in this PR and they are the primary object of study.
- A *Dyck path* is a sequence $v_0, \ldots, v_{2n}$ of points in the plane $\mathbb{N}^2$, where $v_0 = (0, 0)$, $v_{2n} = (2n, 0)$, and $v_{i+1} - v_i \in \{(1, 1), (1, -1)\}$ for $0 \leq i < 2n$. They can be thought of as paths in a particular directed graph whose vertex set is $\mathbb{N}^2$. Dyck paths are in bijection with Dyck words, but they are not the same thing as Dyck words. They are not defined at all in this PR. That is okay; the definition and the bijection can be added later.

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 15]
```diff
@@ -0,0 +1,431 @@
...
+    show (p.nest + q).l = p.nest.l ++ q.l by rfl, drop_append_eq_append_drop,
+    this, drop_length, nil_append, tsub_self, drop_zero]
+
+end FirstReturn
+
+section Tree
+
+open Tree
+
+/-- Convert a Dyck word to a binary rooted tree. -/
```
Comment (semorrison) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:334]: Can you include somewhere in this file (module doc or doc string) an informal description of the bijection?

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean]: Added in `DyckWord.treeEquivToFun` and `DyckWord.treeEquivInvFun`.

**Comment by madvorak** [comment]
Do you avoid `Language` intentionally?

**Comment by Parcly-Taxel** [comment]
> Do you avoid `Language` intentionally?

Yes. I'm looking at this from a purely combinatorial viewpoint; my main aim is to prove the equivalence with rooted binary trees and thus their equinumeration with the Catalan numbers. Formal language applications like Chomsky–Schützenberger are beyond the scope of this file.

**Comment by madvorak** [comment]
Alright! I just want to say that if you provide a definition of the `Language` of Dyck words (just the balanced ones), I will happily add a `ContextFreeGrammar` that recognizes it.

**Comment by Parcly-Taxel** [comment]
@YaelDillies this one's ready now!

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 16]
```diff
@@ -166,10 +172,22 @@ def nest : DyckWord where
...
 
 variable (p) in
-/-- Denest `p`, i.e. `(x)` becomes `x`, given that `p` is strictly positive in its interior
-(this ensures that `x` is a Dyck word). -/
-def denest (pos : ∀ i, 0 < i → i < p.toList.length →
-    (p.toList.take i).count D < (p.toList.take i).count U) : DyckWord where
+/-- A property stating that `p` is strictly positive in its interior, i.e. is of the form `(x)`
+with `x` a Dyck word. -/
+def IsNested : Prop :=
+  ∀ i, 0 < i → i < p.toList.length → (p.toList.take i).count D < (p.toList.take i).count U
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:178]:
```suggestion
  ∀ ⦃i⦄, 0 < i → i < p.toList.length → (p.toList.take i).count D < (p.toList.take i).count U
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 17]
```diff
@@ -166,10 +172,22 @@ def nest : DyckWord where
...
+
+lemma isNested_nest : p.nest.IsNested := fun i lb ub ↦ by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:180]:
```suggestion
protected lemma IsNested.nest : p.nest.IsNested := fun i lb ub ↦ by
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 18]
```diff
@@ -189,17 +207,19 @@ def denest (pos : ∀ i, 0 < i → i < p.toList.length →
...
+    have eq := hn _ lb ub
     set j := min (1 + i) (p.toList.length - 1)
     rw [← (p.toList.take j).take_append_drop 1, count_append, count_append, take_take,
       min_eq_left (by omega), l1, head_eq_U] at eq
     simp only [count_singleton', ite_true, ite_false] at eq
     omega
 
-lemma denest_nest (pos : ∀ i, 0 < i → i < p.toList.length →
-    (p.toList.take i).count D < (p.toList.take i).count U) : (p.denest h pos).nest = p := by
+lemma denest_nest (hn) : (p.denest h hn).nest = p := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:217]: Sorry I didn't spot this earlier but this should be
```suggestion
lemma nest_denest (hn) : (p.denest h hn).nest = p := by
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 19]
```diff
@@ -166,10 +172,22 @@ def nest : DyckWord where
...
+  simp_rw [nest, length_append, length_singleton] at ub ⊢
+  rw [take_append_of_le_length (by rw [singleton_append, length_cons]; omega),
+    take_append_eq_append_take, take_of_length_le (by rw [length_singleton]; omega),
+    length_singleton, singleton_append, count_cons_of_ne (by simp), count_cons_self,
+    Nat.lt_add_one_iff]
+  exact p.count_D_le_count_U _
+
+variable (p) in
+/-- Denest `p`, i.e. `(x)` becomes `x`, given that `p.IsNested`. -/
+def denest (hn : p.IsNested) : DyckWord where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:190]: Can you either make `denest` return `0` on the empty word or include `p ≠ 0` in `IsNested`?

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 20]
```diff
@@ -189,17 +207,19 @@ def denest (pos : ∀ i, 0 < i → i < p.toList.length →
...
       min_eq_left (by omega), l1, head_eq_U] at eq
     simp only [count_singleton', ite_true, ite_false] at eq
     omega
 
-lemma denest_nest (pos : ∀ i, 0 < i → i < p.toList.length →
-    (p.toList.take i).count D < (p.toList.take i).count U) : (p.denest h pos).nest = p := by
+lemma denest_nest (hn) : (p.denest h hn).nest = p := by
   simpa [DyckWord.ext_iff] using p.cons_tail_dropLast_concat h
 
+lemma nest_denest : p.nest.denest nest_ne_zero isNested_nest = p := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:220]:
```suggestion
lemma denest_nest : p.nest.denest .nest = p := by
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 21]
```diff
@@ -400,6 +448,10 @@ instance : PartialOrder DyckWord where
     have h₂ := infix_of_le qp
     exact DyckWord.ext <| h₁.eq_of_length <| h₁.length_le.antisymm h₂.length_le
 
+lemma pos_iff_ne_zero : 0 < p ↔ p ≠ 0 := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:451]:
```suggestion
protected lemma pos_iff_ne_zero : 0 < p ↔ p ≠ 0 := by
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 22]
```diff
@@ -367,13 +399,16 @@ instance : Preorder DyckWord where
...
   by_cases h : p = 0
   · simp [h]
-  · have := semilength_insidePart_lt h
-    exact (zero_le _).trans (Relation.ReflTransGen.single (Or.inl rfl))
+  · have := semilength_outsidePart_lt h
+    exact (le_add_self p.outsidePart q).trans
+      (Relation.ReflTransGen.single (Or.inr (outsidePart_add h).symm))
 termination_by p.semilength
 
+variable (p) in lemma zero_le : 0 ≤ p := add_zero p ▸ le_add_self p 0
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:410]:
```suggestion
variable (p) in protected lemma zero_le : 0 ≤ p := add_zero p ▸ le_add_self p 0
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 23]
```diff
@@ -422,6 +474,95 @@ lemma strictMono_semilength : StrictMono semilength := fun p q pq ↦ by
...
+    have := semilength_outsidePart_lt h
+    treeEquivToFun p.insidePart △ treeEquivToFun p.outsidePart
+termination_by p.semilength
+
+/-- Convert a binary rooted tree to a Dyck word.
+
+`g(nil) = 0`. A nonempty tree with left subtree `l` and right subtree `r`
+is sent to `g(l).nest + g(r)`. -/
+def treeEquivInvFun (t : Tree Unit) : DyckWord :=
+  match t with
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:500]:
```suggestion
def treeEquivInvFun : Tree Unit → DyckWord
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 24]
```diff
@@ -422,6 +474,95 @@ lemma strictMono_semilength : StrictMono semilength := fun p q pq ↦ by
...
+
+/-- Equivalence between Dyck words and rooted binary trees. -/
+def treeEquiv : DyckWord ≃ Tree Unit where
+  toFun := treeEquivToFun
+  invFun := treeEquivInvFun
+  left_inv := treeEquiv_left_inv
+  right_inv := treeEquiv_right_inv
+
+@[nolint unusedHavesSuffices]
+lemma semilength_eq_treeEquiv_numNodes (p) : p.semilength = (treeEquiv p).numNodes := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:533]:
```suggestion
lemma semilength_eq_numNodes_treeEquiv (p) : p.semilength = (treeEquiv p).numNodes := by
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 25]
```diff
@@ -422,6 +474,95 @@ lemma strictMono_semilength : StrictMono semilength := fun p q pq ↦ by
...
+  invFun := fun ⟨tr, _⟩ ↦ ⟨treeEquiv.symm tr, by
+    rwa [semilength_eq_treeEquiv_numNodes, ← mem_treesOfNumNodesEq, Equiv.apply_symm_apply]⟩
+  left_inv _ := by simp only [Equiv.symm_apply_apply]
+  right_inv _ := by simp only [Equiv.apply_symm_apply]
+
+instance {n : ℕ} : Fintype { p : DyckWord // p.semilength = n } :=
+  Fintype.ofEquiv _ (finiteTreeEquiv n).symm
+
+/-- There are `catalan n` Dyck words of semilength `n` (or length `2 * n`). -/
+theorem card_dyckWord_of_semilength_eq_catalan (n : ℕ) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:559]:
```suggestion
theorem card_dyckWord_semilength_eq_catalan (n : ℕ) :
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 26]
```diff
@@ -422,6 +474,95 @@ lemma strictMono_semilength : StrictMono semilength := fun p q pq ↦ by
...
+    simp_rw [h, dite_false, treeEquivInvFun]
+    have := semilength_insidePart_lt h
+    have := semilength_outsidePart_lt h
+    rw [treeEquiv_left_inv p.insidePart, treeEquiv_left_inv p.outsidePart]
+    exact nest_insidePart_add_outsidePart h
+termination_by p.semilength
+
+@[nolint unusedHavesSuffices]
+lemma treeEquiv_right_inv (t) : treeEquivToFun (treeEquivInvFun t) = t := by
+  induction t with
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:518]:
```suggestion
lemma treeEquiv_right_inv : ∀ t, treeEquivToFun (treeEquivInvFun t) = t
```

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean]: All done.

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 19 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:190]: I've gone for the second option.

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 27]
```diff
@@ -186,19 +204,21 @@ def denest (pos : ∀ i, 0 < i → i < p.toList.length →
...
     set j := min (1 + i) (p.toList.length - 1)
     rw [← (p.toList.take j).take_append_drop 1, count_append, count_append, take_take,
       min_eq_left (by omega), l1, head_eq_U] at eq
     simp only [count_singleton', ite_true, ite_false] at eq
     omega
 
-lemma denest_nest (pos : ∀ i, 0 < i → i < p.toList.length →
-    (p.toList.take i).count D < (p.toList.take i).count U) : (p.denest h pos).nest = p := by
-  simpa [DyckWord.ext_iff] using p.cons_tail_dropLast_concat h
+lemma nest_denest (hn) : (p.denest hn).nest = p := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:217]: `p` should be explicit in this lemma

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 28]
```diff
@@ -186,19 +204,21 @@ def denest (pos : ∀ i, 0 < i → i < p.toList.length →
...
+  simpa [DyckWord.ext_iff] using p.cons_tail_dropLast_concat hn.1
+
+lemma denest_nest : p.nest.denest .nest = p := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:220]: In this one too

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 29]
```diff
@@ -297,22 +317,19 @@ lemma firstReturn_nest : p.nest.firstReturn = p.toList.length + 1 := by
   · simp_rw [length_range, u, length_append, length_cons]
     exact Nat.lt_add_one _
 
-lemma firstReturn_nest_add : (p.nest + q).firstReturn = p.toList.length + 1 := by simp
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:300]: Where is this lemma gone? Was it supposed to be an auxiliary lemma and you don't need it anymore?

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:300]: It was originally needed in the proofs of simp lemmas `insidePart_nest_add` and `outsidePart_nest_add`, and those were its only two uses. When I was cleaning up this PR after merging master just after #15864 landed, I needed to split `insidePart_nest_add` and `outsidePart_nest_add` into two more elementary simp lemmas each to prove `DyckWord.le_add_self`, so I did that. Then I realised that I no longer needed to explicitly state `insidePart_nest_add`/`outsidePart_nest_add` in the only place where _they_ were used, in the proof of `treeEquiv_right_inv`, because the four simp lemmas replacing them are enough for `simp` to close the goal. So I could dispense with `insidePart_nest_add`, `outsidePart_nest_add` – and transitively `firstReturn_nest_add`.

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 30]
```diff
@@ -422,6 +475,90 @@ lemma strictMono_semilength : StrictMono semilength := fun p q pq ↦ by
...
+    exact nest_insidePart_add_outsidePart h
+termination_by p.semilength
+
+@[nolint unusedHavesSuffices]
+lemma treeEquiv_right_inv : ∀ t, treeEquivToFun (treeEquivInvFun t) = t
+  | Tree.nil => by simp [treeEquivInvFun, treeEquivToFun]
+  | Tree.node _ _ _ => by simp [treeEquivInvFun, treeEquivToFun, treeEquiv_right_inv]
+
+/-- Equivalence between Dyck words and rooted binary trees. -/
+def treeEquiv : DyckWord ≃ Tree Unit where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:522]:
```suggestion
def equivTree : DyckWord ≃ Tree Unit where
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 31]
```diff
@@ -422,6 +475,90 @@ lemma strictMono_semilength : StrictMono semilength := fun p q pq ↦ by
...
+    have := semilength_insidePart_lt h
+    have := semilength_outsidePart_lt h
+    rw [← semilength_insidePart_add_semilength_outsidePart_add_one h,
+      semilength_eq_numNodes_treeEquiv p.insidePart,
+      semilength_eq_numNodes_treeEquiv p.outsidePart]; rfl
+termination_by p.semilength
+
+/-- Equivalence between Dyck words of semilength `n` and rooted binary trees with
+`n` internal nodes. -/
+def finiteTreeEquiv (n : ℕ) : { p : DyckWord // p.semilength = n } ≃ treesOfNumNodesEq n where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:543]:
```suggestion
def equivTreesOfNumNodesEq (n : ℕ) : { p : DyckWord // p.semilength = n } ≃ treesOfNumNodesEq n where
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 32]
```diff
@@ -422,6 +475,90 @@ lemma strictMono_semilength : StrictMono semilength := fun p q pq ↦ by
...
+    have := semilength_insidePart_lt h
+    have := semilength_outsidePart_lt h
+    rw [treeEquiv_left_inv p.insidePart, treeEquiv_left_inv p.outsidePart]
+    exact nest_insidePart_add_outsidePart h
+termination_by p.semilength
+
+@[nolint unusedHavesSuffices]
+lemma treeEquiv_right_inv : ∀ t, treeEquivToFun (treeEquivInvFun t) = t
+  | Tree.nil => by simp [treeEquivInvFun, treeEquivToFun]
+  | Tree.node _ _ _ => by simp [treeEquivInvFun, treeEquivToFun, treeEquiv_right_inv]
```
[the remark this answers is not in the document]
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean]: All done.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by Parcly-Taxel** [comment]
@jcommelin an API rate limit was hit, so ready-to-merge was not added; can you try again?
